US08044083B2
Step J: Preparation of 1-(3-tert-butyl-1-p-tolyl-1H-pyrazol-5-yl)-3-(5-fluoro-2-(1-(2-hydroxyethyl)-1H-indazol-5-yloxy)benzyl)urea 72:
1-(3-tert-Butyl-1-p-tolyl-1H-pyrazol-5-yl)-3-((5-fluoro-2-(1-(2-oxoethyl)-1H-indazol-5-yloxy)phenyl)methyl)urea (2.179 g, 3.929 mmol) was suspended in MeOH (40 mL) and treated with sodium borohydride (0.7432 g, 19.64 mmol) portionwise at room temperature. The reaction mixture was stirred at room temperature until complete conversion of the starting material to product was observed by HPLC analysis. The reaction mixture was concentrated under reduced pressure and then diluted with saturated aqueous NH4Cl and extracted into dichloromethane. The organics were dried (MgSO4) and concentrated under reduced pressure to afford the crude material, which was purified by flash column chromatography (eluant 2-6% iPrOH/DCM) to provide 1.21 g (55%) of the desired compound. MS (APCI+) m/z 557 (M+1) was detected. 1H NMR (400 MHz, DMSO-d6) δ 8.29 (s, 1H), 7.97 (s, 1H), 7.68 (d, 1H, J=9.1 Hz), 7.35 (s, 1H), 6.85-7.4 (m, 8H), 6.24 (s, 1H), 4.87 (t, 1H, J=5.4 Hz), 4.43 (t, 1H, J=5.6 Hz), 4.28 (d, 1H, J=5.9 Hz), 3.80 (q, 1H, J=5.5 Hz), 2.35 (s, 3H), 1.25 (s, 9H).

reactant | 1-(3-tert-Butyl-1-p-tolyl-1H-pyrazol-5-yl)-3-((5-fluoro-2-(1-(2-oxoethyl)-1H-indazol-5-yloxy)phenyl)methyl)urea | 3.929 mmol, 2.179 g | C(C)(C)(C)C1=NN(C(=C1)NC(=O)NCC1=C(C=CC(=C1)F)OC=1C=C2C=NN(C2=CC1)CC=O)C1=CC=C(C=C1)C | C31H31FN6O3
reactant | sodium borohydride | 19.64 mmol, 0.7432 g | [BH4-].[Na+]
solvent | MeOH | 40 mL | CO | CH4O
product | 1-(3-tert-butyl-1-p-tolyl-1H-pyrazol-5-yl)-3-(5-fluoro-2-(1-(2-hydroxyethyl)-1H-indazol-5-yloxy)benzyl)urea | 1.21 g, 55% | C(C)(C)(C)C1=NN(C(=C1)NC(=O)NCC1=C(C=CC(=C1)F)OC=1C=C2C=NN(C2=CC1)CCO)C1=CC=C(C=C1)C | C31H33FN6O3
